* LowPower OpAmp
.lib "models\sky130.lib.spice" tt

X0 n1 vin1 n2 gnd sky130_fd_pr__nfet_01v8 w=5 l=0.5
X1 vss n3 out vss sky130_fd_pr__nfet_01v8 w=65 l=0.5
X2 vss n3 n3 vss sky130_fd_pr__nfet_01v8 w=20 l=0.5
X3 out n4 vdd vdd sky130_fd_pr__pfet_01v8 w=65 l=0.5

X5 n4 n2 vdd vdd sky130_fd_pr__pfet_01v8 w=10 l=0.5
X6 vdd n2 n2  vdd sky130_fd_pr__pfet_01v8 w=10 l=0.5
X7 n4 vin2 n1 gnd sky130_fd_pr__nfet_01v8 w=5 l=0.5

X11 vss n3 n1 vss sky130_fd_pr__nfet_01v8 w=20 l=0.5
C1 n4 out 1fF
C2 out gnd 2fF

*Sources
i1 n3 vdd dc -40u
v1 vdd gnd dc 1.8
v2 vss gnd dc -1.8

v3 Vin1 gnd sine(0 1m 60)
v4 Vin2 gnd sine(0 1m 60)
